US07226644B2
Into 7.6 g of magnesium and 20 mL of THF which were stirred while water-cooling in a nitrogen atmosphere, a THF solution (200 mL) containing 60 g of 2,3,4-trifluorobromobenzene was added dropwise for 2 hours, and stirred for 3 hours. Into this, a THF solution (200 mL) containing 70 g of 4-(trans-4-propylcyclohexyl)cyclohexanone was added dropwise for 2 hours, and stirred for 2 hours. After the reaction solution was poured into 10% hydrochloric acid and stirred for a while, an organic layer was separated, and an aqueous layer was extracted with toluene. After the extract and the organic layer were mixed together, washed using water and a saturated saline solution in that order, and dried using anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure to obtain 110 g of 2,3,4-trifluoro-1-[1-hydroxy-4-(trans-4-propylcyclohexyl)cyclohexyl]benzene (unsatisfactorily dried).

reactant | magnesium | 7.6 g | [Mg] | Mg
reactant | 2,3,4-trifluorobromobenzene | 60 g | FC1=C(C=CC(=C1F)F)Br | C6H2BrF3
reactant | 4-(trans-4-propylcyclohexyl)cyclohexanone | 70 g | C(CC)[C@@H]1CC[C@H](CC1)C1CCC(CC1)=O | C15H26O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2,3,4-trifluoro-1-[1-hydroxy-4-(trans-4-propylcyclohexyl)cyclohexyl]benzene | 110 g | FC1=C(C=CC(=C1F)F)C1(CCC(CC1)[C@@H]1CC[C@H](CC1)CCC)O | C21H29F3O
